US06174874B1
Step 1 1,2,3-Triphenyl-1-propanone
To deoxybenzoin (0.20 g, 1.02 mmol) in DMF (5 mL) were added at 0° C. NaH in oil (0.050 g, 1.22 mmol) and benzyl bromide (183 μL). After 1 h at room temperature, the reaction mixture was partitioned between NH4OAc and ether. After usual work up procedure the title compound was purified by flash chromatography (0.95 g).

reactant | deoxybenzoin | 1.02 mmol, 0.20 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | NaH | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | benzyl bromide | 183 μL | C(C1=CC=CC=C1)Br | C7H7Br
product | 1,2,3-Triphenyl-1-propanone | C1(=CC=CC=C1)C(C(CC1=CC=CC=C1)C1=CC=CC=C1)=O | C21H18O
